US05144018
Synthesis of 9-(3-deoxy-β-D-threo-pentofuranosyl) adenine (Compound A'3)
Adenosine (5.0 g, 18.7 mmol) was suspended in dry pyridine (50 ml) and colled to -15° C. To the suspension was added pivaloyl chloride (7.0 ml, 56.8 mmol), and the mixture was first stirred at -15° C. for 1.5 hour, and then at 0° C. for 2 hours. Methanesulfonyl chloride (4.3 ml, 55.6 mmol) was added dropwise to the reaction mixture under ice cooling. The mixture was stirred at room temperature for 3 hours, the cooled with ice again. A small amount of water was added and stirred for 30 minutes. The reaction mixture was extracted with chloroform-ether. The organic layer was washed with saturated aqueous sodium bicarbonate solution and then with water, and dried over magnesium sulfate. The drying agent was removed by filtration and the filtrate was concentrated in vacuo to dryness to give amorphous substances. The remaining pyridine was removed by repeated co-evaporation with toluene. The residue was dissolved in methanol (150 ml), cooled to -15° C., after which sodium methoxide (8.1 g, 150 mmol) and sodium borohydride (2.5 g, 66.1 mmol) were added. The mixture was first stirred at room temperature for 14 hours and then at 50° C. for 3 hours. After ice cooling, a small amount of acetone was added to the reaction mixture to decompose an excess of NaBH4. Concentrated hydrochloric acid was gradually added to neutralize the solution. Ethanol was added to the mixture, which was then concentrated under reduced pressure to remove water completely. The residue was suspended in chloroform-methanol and applied to a silica gel column (250 g). Elution with chloroform - methanol (8:1→5:1) gave compound A'3 as oils, which were then crystallized from ethanol-ether. Yield: 2.7 g (57%).

reactant | Adenosine | 18.7 mmol, 5.0 g | [C@@H]1([C@H](O)[C@H](O)[C@@H](CO)O1)N1C=NC=2C(N)=NC=NC12 | C10H13N5O4
reactant | pivaloyl chloride | 56.8 mmol, 7.0 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | Methanesulfonyl chloride | 55.6 mmol, 4.3 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium methoxide | 150 mmol, 8.1 g | C[O-].[Na+]
reactant | sodium borohydride | 66.1 mmol, 2.5 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
solvent | Ethanol | C(C)O | C2H6O
solvent | acetone | CC(=O)C | C3H6O
solvent | water | O | H2O
product | 9-(3-deoxy-β-D-threo-pentofuranosyl) adenine | [C@@H]1([C@@H](O)C[C@H](O1)CO)N1C2=NC=NC(=C2N=C1)N | C10H13N5O3
